US04943574
A mixture of 8.2 parts of 6-(bromophenylmethyl)-1-methyl-1H-benzotriazole monohydrobromide, 3.45 parts of 4H-1,2,4-triazole-4-amine and 64 parts of acetonitrile was stirred first for 2 hours at reflux temperature and then overnight at room temperature. The precipitate was filtered off and the filtrate was concentrated, yielding 4-amino-1-[(1-methyl-1H-benzotriazol-6-yl)phenylmethyl]-4H-1,2,4-triazolium bromide. To a stirred solution of the latter, 7.3 parts of a phosphinic acid solution 50% and 7.3 parts of a hydrochloric acid solution of 12N in 40 parts of methanol and 20 parts of water was added dropwise a solution of 3.45 parts of sodium nitrite in 20 parts of water. Upon complete addition, stirring was continued for 30 minutes at room temperature. The methanol layer was evaporated and the residue was treated with an ammonium hydroxide solution. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified twice by column chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the ethanedioate salt in 36 parts of tetrahydrofuran. The salt was filtered off and crystallized from 45 parts of ethyl acetate. The product was filtered off and dried, yielding 3.1 parts (40.7%) of 1-methyl-6-[phenyl-(1H-1,2,4-triazol-1-yl)methyl]-1H-benzotriazole ethanedioate(1:1); mp. 164.9° C. (compound 67).

reactant | 6-(bromophenylmethyl)-1-methyl-1H-benzotriazole monohydrobromide | Br.BrC(C=1C=CC2=C(N(N=N2)C)C1)C1=CC=CC=C1
reactant | 4H-1,2,4-triazole-4-amine | N=1N=CN(C1)N | C2H4N4
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-amino-1-[(1-methyl-1H-benzotriazol-6-yl)phenylmethyl]-4H-1,2,4-triazolium bromide | [Br-].NN1C=N[N+](=C1)C(C1=CC=CC=C1)C=1C=CC2=C(N(N=N2)C)C1 | InChI=1S/C16H16N7.BrH/c1-21-15-9-13(7-8-14(15)19-20-21)16(12-5-3-2-4-6-12)23-11-22(17)10-18-23;/h2-11,16H,17H2,1H3;1H/q+1;/p-1
